US07678803B2
To 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.3 g, 1.2 eq) in dimethylacetamide (50 mL) is added slowly sodium hydride (50.8 mg, 1.5 eq). The resulting mixture is stirred at RT for 0.5 h. To that 7-Fluoro-2-methyl-quinazolin-4-ylamine (0.25 g, 1 eq) is added and the mixture is stirred at 150° C. for overnight. The mixture is poured into sat'd NaHCO3 aq. solution (300 mL), and extracted by EtOAc (3×100 mL). The combined organic layers are dried over Na2SO4, filtered, concentrated. The crude product is purified by flash chromatography, eluted by 50% EtOAc in Hexane to EtOAc to give 1-(4-Amino-2-methyl-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one (0.135 g, 29% yield). LC/MS m/z=335 [M+H]+.

reactant | 3,6,6,-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.3 g, 1.2 eq | CC1=CNC=2CC(CC(C12)=O)(C)C | C11H15NO
reactant | sodium hydride | 50.8 mg, 1.5 eq | [H-].[Na+]
reactant | 7-Fluoro-2-methyl-quinazolin-4-ylamine | 0.25 g, 1 eq | FC1=CC=C2C(=NC(=NC2=C1)C)N | C9H8FN3
reactant | NaHCO3 | 300 mL | C(=O)(O)[O-].[Na+]
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
product | 1-(4-Amino-2-methyl-quinazolin-7-yl)-3,6,6-trimethyl-1,5,6,7-tetrahydro-indol-4-one | 0.135 g, 29% yield | NC1=NC(=NC2=CC(=CC=C12)N1C=C(C=2C(CC(CC12)(C)C)=O)C)C | C20H22N4O
